US07173025B1
4-(Chlorosulphonyl)benzoic acid (0.75 g) was added to a solution of 1-(3-chlorophenyl)piperazine dihydrochloride (0.90 g) in triethylamine (2.4 ml) and dichloromethane (50 ml). The reaction mixture was stirred overnight at room temperature then concentrated in vacuo. The resulting solid was suspended in N,N-dimethylformamide (50 ml) and carbonyl diimidazole (0.55 g) was added. The reaction mixture was stirred for one hour at room temperature then 1-(4-pyridyl)piperazine (0.55 g, 3.4 mmol) was added. The reaction mixture was stirred for three hours, then concentrated in vacuo. The resulting solid was separated between ethyl acetate (100 ml) and water (100 ml). The ethyl acetate layer was washed with aqueous saturated sodium bicarbonate solution (100 ml) then dried over magnesium sulphate, filtered and concentrated in vacuo. The resulting yellow oil was subjected to chromatography (SiO2: 10%-12% MeOH/EtOAc) to yield 1-[4-(4-(3-chlorophenyl)piperazin-1-ylsulphonyl)benzoyl]-4-(4-pyridyl)piperazine as a white solid (300.1 mg);

reactant | 4-(Chlorosulphonyl)benzoic acid | 0.75 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 1-(3-chlorophenyl)piperazine dihydrochloride | 0.90 g | Cl.Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | 1-(4-pyridyl)piperazine | 3.4 mmol, 0.55 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-[4-(4-(3-chlorophenyl)piperazin-1-ylsulphonyl)benzoyl]-4-(4-pyridyl)piperazine | 300.1 mg | ClC=1C=C(C=CC1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C(=O)N2CCN(CC2)C2=CC=NC=C2)C=C1 | C26H28ClN5O3S
